Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Penicillins / Erythromycin Base / Gentamicin / Diltiazem / 
Plavix / Sulfa (Sulfonamide Antibiotics) / IV Dye, Iodine 
Containing / Vancomycin / Ativan / Clindamycin / ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
R hip fracture
 
Major Surgical or Invasive Procedure:
R hip ORIF with DHS

 
History of Present Illness:
___ M with CAD s/p CABG and PCI (on ASA) presents with R hip
fracture s/p mechanical fall.  He tripped while ambulating with
his walker this morning and fell on his right side, with
immediate pain about the right hip and inability to ambulate.  
He
denies numbness, tingling, or pain elsewhere.  He was initially
taken to ___, then transferred to ___ in order to
undergo pre-operative evaluation by his established cardiac 
team.
 
Past Medical History:
1.  Coronary artery disease with prior CABG in ___.
2.  Abrupt occlusion of a vein graft to the OM in ___ in the
setting of brief aspirin discontinuation for prostate biopsy.  
He
has had subsequent multiple PCIs.
3.  Atrial fibrillation, currently managed with low-dose
amiodarone and dabigatran for thromboembolic prophylaxis.
4.  Hypertension.
5.  Diabetes mellitus.
6.  PMR on chronic prednisone
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; Family history is significant for father 
who 
died at age ___ of heart attack and coronary artery disease. His 
mother died in her ___ of a heart attack and coronary artery 
disease. He has a brother with lymphoma and sarcoma.  
 
Physical Exam:
Right lower extremity:
- Dsg cdi
- Fires ___
- SILT S/S/SP/DP/T distributions
- 1+ ___ pulses, WWP

 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have R intertrochanteric hip fracture and was admitted to the 
orthopedic surgery service. The patient was taken to the 
operating room on ___ for R hip DHS, which the patient 
tolerated well. For full details of the procedure please see the 
separately dictated operative report. The patient was taken from 
the OR to the PACU in stable condition and after satisfactory 
recovery from anesthesia was transferred to the floor. The 
patient was initially given IV fluids and IV pain medications, 
and progressed to a regular diet and oral medications by POD#1. 
The patient was given ___ antibiotics and 
anticoagulation per routine. The patient's home medications were 
continued throughout this hospitalization. The patient worked 
with ___ who determined that discharge to rehab was appropriate. 
The ___ hospital course was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
WBAT in the right lower extremity, and will be discharged on 
lovenox for DVT prophylaxis. The patient will follow up with 
___ trauma team per routine. A thorough discussion 
was had with the patient regarding the diagnosis and expected 
post-discharge course including reasons to call the office or 
return to the hospital, and all questions were answered. The 
patient was also given written instructions concerning 
precautionary instructions and the appropriate follow-up care. 
The patient expressed readiness for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amiodarone 100 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Ferrous Sulfate 325 mg PO DAILY 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 10 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Omeprazole 20 mg PO DAILY 
8. Simvastatin 20 mg PO QPM 
9. Flunisolide Inhaler 80 mcg/actuation inhalation DAILY:PRN 
congestion 
10. GlipiZIDE XL 1.25 mg PO DAILY 
11. Vesicare (solifenacin) 10 mg oral DAILY 
12. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
13. Metoprolol Succinate XL 25 mg PO DAILY 
14. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 
15. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
16. Polyethylene Glycol 17 g PO DAILY 
17. Docusate Sodium 100 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. Finasteride 5 mg PO DAILY 
4. Furosemide 20 mg PO BID 
5. GlipiZIDE XL 1.25 mg PO DAILY 
6. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
7. Lisinopril 5 mg PO DAILY 
8. Metoprolol Succinate XL 25 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Simvastatin 20 mg PO QPM 
11. Acetaminophen 1000 mg PO Q8H 
12. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
13. Docusate Sodium 100 mg PO BID 
14. Enoxaparin Sodium 40 mg SC Q24H 
RX *enoxaparin [Lovenox] 40 mg/0.4 mL 1 syringe sq once a day 
Disp #*24 Syringe Refills:*0
15. OxycoDONE (Immediate Release)  2.5-5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0
16. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
17. Senna 8.6 mg PO BID 
18. solifenacin 5 mg oral BID 
19. Vitamin D 400 UNIT PO DAILY 
20. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
21. Flunisolide Inhaler 80 mcg/actuation inhalation DAILY:PRN 
congestion 
22. Vesicare (solifenacin) 10 mg ORAL DAILY 
23. Amiodarone 100 mg PO DAILY 
24. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
DAILY 
25. Ondansetron 4 mg PO Q8H:PRN nausea/vomiting  
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
R hip intertrochanteric fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
INSTRUCTIONS AFTER ORTHOPAEDIC SURGERY:

- You were in the hospital for orthopedic surgery. It is normal 
to feel tired or "washed out" after surgery, and this feeling 
should improve over the first few days to week. 
- Resume your regular activities as tolerated, but please follow 
your weight bearing precautions strictly at all times.

ACTIVITY AND WEIGHT BEARING:
- Weight bearing as tolerated in right lower extremity

MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take Lovenox 40mg daily for 4 weeks

WOUND CARE:
- You may shower. No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
- If applicable, splint must be left on until follow up 
appointment unless otherwise instructed
- Do NOT get splint wet

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
Physical Therapy:
Activity:   Activity:  Out of bed w/ assist
 Right lower extremity:  Full weight bearing, can weight bear as 
tolerated
 Left lower extremity:  Full weight bearing
Encourage turning, deep breathing and coughing qhour when awake.

Treatments Frequency:
Site: Incision 
Type: Surgical
Dressing: Gauze - dry
Comment: on AM of POD 3 by ___, then daily by RN as needed; 
please overwrap any dressing bleedthrough with ABD's and ACE. 
 
Followup Instructions:
___